US03982011
4-Cyclopentanecarbonylamino-benzoic acid was prepared as described in Example 1B from 31.5 g (0.23 mol) of p-aminobenzoic acid and 17.3 g (0.23 mol) of cyclopropanecarboxylic acid chloride in the presence of triethylamine.

reactant | p-aminobenzoic acid | 0.23 mol, 31.5 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | cyclopropanecarboxylic acid chloride | 0.23 mol, 17.3 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-Cyclopentanecarbonylamino-benzoic acid | C1(CCCC1)C(=O)NC1=CC=C(C(=O)O)C=C1 | C13H15NO3
